US08377957B2
4-Chloro-2-methoxy-1H-imidazo[4,5-c]quinoline (700 mg) was added to a high-pressure vessel with ammonia (40 mL of a 7 N solution in methanol), and the vessel was sealed and heated at 150° C. for 24 hours, allowed to cool, and concentrated under reduced pressure. The crude product was purified twice by automated flash chromatography (silica cartridge, eluting with aqueous ammonium hydroxide:methanol:dichloromethane first in a gradient from 0:0:100 to 0.3:4.7:95 and secondly in a gradient from 0:0:100 to 0.2:3.8:96) to provide 20 mg of 2-methoxy-1H-imidazo[4,5-c]quinolin-4-amine as a white solid. The compound was further purified by prep HPLC according to the method described in Examples 8-55. The observed accurate mass (M+H) for the isolated trifluoroacetate salt was 215.0931.

reactant | 4-Chloro-2-methoxy-1H-imidazo[4,5-c]quinoline | 700 mg | ClC1=NC=2C=CC=CC2C2=C1N=C(N2)OC | C11H8ClN3O
reactant | ammonia | N | H3N
solvent | methanol | CO | CH4O
product | 2-methoxy-1H-imidazo[4,5-c]quinolin-4-amine | 20 mg | COC=1NC2=C(C(=NC=3C=CC=CC23)N)N1 | C11H10N4O
